US07018988B2
(2S)-N2-(9-ethyl-9H-carbazol-3-yl)-N1-(3-methoxyphenyl)-4-methylene-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 1-isocyanato-3-methoxybenzene, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 47% purity by LC/MS. MS(ESI+): m/z=469.4.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 1-isocyanato-3-methoxybenzene | N(=C=O)C1=CC(=CC=C1)OC | C8H7NO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S)-N2-(9-ethyl-9H-carbazol-3-yl)-N1-(3-methoxyphenyl)-4-methylene-1,2-pyrrolidinedicarboxamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(=O)[C@H]1N(CC(C1)=C)C(=O)NC1=CC(=CC=C1)OC | C28H28N4O3
